Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Cavernous malformation
 
Major Surgical or Invasive Procedure:
___ - Diagnostic cerebral angiogram - Negative for 
cerebral aneurysm or cerebrovascular malformation
 
History of Present Illness:
___ is a ___ year old male who presented to the ED on 
___ as a transfer from an outside facility with a new 
onset seizure. Imaging was concerning for a cavernous 
malformation. Neurosurgery was consulted for evaluation and 
management recommendations.
 
Past Medical History:
- Hyperlipidemia
- Hypertension
- H/o kidney cancer s/p right nephrectomy in ___
- Possible h/o MVC in young adulthood requiring some sort of 
cranial surgery and possible plating
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
On Admission: 
-------------
Physical Exam:

VS: T 97.5F, HR 75, BP 114/68, RR 18, O2Sat 99% on room air

General: Well nourished. Comfortable. No acute distress.
HEENT: PERRL, 3-2mm. EOMs full. No gaze deviation or nystagmus 
noted.
Extremities: Warm and well perfused.

Date and Time of Evaluation: ___ at 12:30

GCS: 
[ ]Intubated
[x]Not intubated

Eye Opening: 
[ ]1 Does not open eyes
[ ]2 Opens eyes to painful stimuli
[ ]3 Opens eyes to voice
[x]4 Opens eyes spontaneously

Verbal:
[ ]1 Makes no sounds
[ ]2 Incomprehensible sounds
[ ]3 Inappropriate words
[x]4 Confused, disoriented
[ ]5 Oriented

Motor:
[ ]1 No movement
[ ]2 Extension to painful stimuli (decerebrate response)
[ ]3 Abnormal flexion to painful stimuli (decorticate response)
[ ___ Flexion/withdrawal to painful stimuli 
[ ]5 Localizes to painful stimuli
[x]6 Obeys commands

Total: 14

ICH Score: 

GCS: 
[ ]2 GCS ___
[ ]1 GCS ___
[x]0 GCS ___
     
ICH Volume: 
[ ]1 30 mL or greater
[x]0 Less than 30 mL

IVH:
[ ]1 Present
[x]0 Absent

Infratentorial ICH:
[ ___ Yes
[x]0 No

Age:
[ ]1 ___ years old or greater
[x]0 Less than ___ years old

Total: 0

Neurologic:

Mental Status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person. States that he is at "my house" 
and that it is ___ States that he has a wedding to 
cater this weekend, ___
Language: Slurred speech.

Cranial Nerves:
I: Not tested.
II: PERRL, 3-2mm.
III, IV, VI: EOMs full. No gaze deviation or nystagmus noted.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors noted. Strength ___ throughout. Left sided neglect 
noted. Patient only able to follow commands with ___ steps, 
unable to follow commands for drift.

Sensation: Intact to light touch. 

Toes downgoing bilaterally.

Coordination: Bilateral dysmetria, left greater than right, on 
finger to nose testing.

Handedness: Right.

On Discharge: 
-------------
General:

VS: T ___, HR 76, BP 101/53, RR 14, O2Sat 95% on room air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious [ ]None
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Pupils: PERRL
EOMs: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trap   Deltoid   Biceps   Triceps   Grip
Right5      5         5        5         5
Left5      5         5        5         5

        IP   Quad   Ham   AT   ___   ___
Right5    5      5     5    5     5
Left5    5      5     5    5     5

Sensation: Intact to light touch.

Right Wrist Site:
- Dressing clean, dry, intact
- Soft, no hematoma
- Palpable pulses
 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ year old male found to have a cavernous malformation.

#Cavernous malformation
The patient presented to the ED on ___ as a transfer from 
an outside facility and was evaluated by both Neurosurgery and 
Neurology in the ED. Initial imaging at the outside facility was 
concerning for a hemorrhagic stroke, however subsequent imaging 
in the ED was consistent with a cavernous malformation. Given 
this, the patient was admitted to Neurosurgery for further 
evaluation and management. The patient was started on Keppra 
given question of seizure activity prior to presentation. He was 
taken for a diagnostic cerebral angiogram on ___, which 
was negative for cerebral aneurysm or cerebrovascular 
malformation. The procedure was uncomplicated. The patient 
recovered from the procedure and was transferred to the step 
down unit postprocedurally for close neurologic monitoring. He 
remained neurologically stable. On ___, the patient was 
afebrile with stable vital signs, mobilizing with assistance, 
tolerating a diet, voiding and stooling without difficulty, and 
his pain was well controlled with oral pain medications. He was 
discharged home with home ___ on ___ in stable condition.

#Renal insufficiency
Nephrology was consulted for clearance prior to angiography 
given his renal insufficiency. He was prehydrated per their 
recommendations.

#UTI 
The patient had a urinalysis on presentation that was suspicious 
for UTI. He received ceftriaxone. The urine culture came back 
consistent with contamination, so the ceftriaxone was stopped. 
The patient had a renal ultrasound, which was unremarkable. 

#Disposition
___ was consulted and recommended discharge home with home ___. He 
was discharged home with home ___ on ___ in stable 
condition.
 
Medications on Admission:
- lisinopril 10mg PO once daily
- simvastatin 10mg PO QPM
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 3000mg in 24 hours.  
2.  LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*56 Tablet Refills:*3 
3.  Lisinopril 10 mg PO DAILY  
4.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Cavernous malformation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory with assistance.
 
Discharge Instructions:
Care Of The Puncture Site:
- You will have a small bandage over the puncture site. 
- Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
- Keep the puncture site clean with water and soap and dry it 
carefully.
- You may cover the puncture site with a Band-Aid if you wish.

Activity:
- You may gradually return to your normal activities, but we 
recommend that you take it easy for the next ___ hours to avoid 
bleeding from your puncture site.
- You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
- Heavy lifting, running, climbing, and other strenuous exercise 
should be avoided for 10 days. This is to prevent bleeding from 
the puncture site.
- You may take a shower, but do not go swimming or submerge 
yourself in water for 5 days after your procedure.

Medications:
- Resume your normal medications and begin new medications as 
directed.
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- Do not take any blood thinning medications such as aspirin, 
clopidogrel (Plavix), ibuprofen, warfarin (Coumadin), etc. until 
cleared by your neurosurgeon.

What You ___ Experience:
- Mild tenderness and bruising at the puncture site.
- Soreness in your arms from the intravenous lines.
- Mild to moderate headaches that last several days to a few 
weeks.
- Fatigue is very normal.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high fiber diet. You may also try an over-the-counter 
stool softener if needed.

Please Call Your Neurosurgeon At ___ For:
- Fever greater than 101.4 degrees Fahrenheit.
- Severe pain, redness, swelling, or drainage from the puncture 
site.
- Severe headaches not adequately relieved with prescribed pain 
medications.
- Extreme sleepiness or not being able to stay awake.
- Any new problems with your vision or ability to speak.
- Weakness or changes in sensation in your face, arms, or legs.
- Nausea or vomiting.
- Seizures.
- Blood in your urine or stool.
- Constipation.
 
Followup Instructions:
___